US07825256B2
Preparation of compound 122: (R)—N-(2-Benzo[1,3]dioxol-5-yl-ethyl)-2-(3-imidazol-1-yl-[1,2,4]thiadiazol-5-ylamino)-3-methyl-butyramide
2-Amino-N-(2-benzo[1,3]dioxol-5-yl-ethyl)-3-methyl-butyramide (135 mg, 0.51 mmol) was dissolved in DMSO (2 mL) and triethylamine (150 μL). Next, the 5-chloro-3-imidazol-1-yl-[1,2,4]thiadiazole (95.1 mg, 0.51 mmol) was added to the reaction vessel and it was stirred at room temperature for 16 hours. After this period, a portion of brine (50 mL) was added and the mixture was transferred to a separatory funnel and extracted with ethyl acetate (75 mL). The organic layer was dried over Na2SO4 and concentrated under vacuum. The crude material was purified by Flash Chromatography (0-50% ACN/DCM gradient) to afford 20.4 mg of pure product, N-(2-benzo[1,3]dioxol-5-yl-ethyl)-2-(3-imidazol-1-yl-[1,2,4]thiadiazol-5-ylamino)-3-methyl-butyramide. [M+H]+ 414.84; 1H NMR (400 MHz, CDCl3) δ 8.52 (s, 1H), 7.71 (s, 1H), 6.99 (s, 1H), 6.62-6.52 (m, 3H), 5.82-5.80 (m, 2H), 4.0 (Br s, 1H), 3.64-3.47 (m, 3H), 2.76-2.72 (m, 2H), 2.30-2.29 (m, 1H), 1.03-1.01 (m, 6H).

reactant | 2-Amino-N-(2-benzo[1,3]dioxol-5-yl-ethyl)-3-methyl-butyramide | 0.51 mmol, 135 mg | NC(C(=O)NCCC1=CC2=C(OCO2)C=C1)C(C)C | C14H20N2O3
reactant | 5-chloro-3-imidazol-1-yl-[1,2,4]thiadiazole | 0.51 mmol, 95.1 mg | ClC1=NC(=NS1)N1C=NC=C1 | C5H3ClN4S
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | triethylamine | 150 μL | C(C)N(CC)CC | C6H15N
solvent | brine | 50 mL | [Cl-].[Na+].O
product | (R)—N-(2-Benzo[1,3]dioxol-5-yl-ethyl)-2-(3-imidazol-1-yl-[1,2,4]thiadiazol-5-ylamino)-3-methyl-butyramide | 20.4 mg | O1COC2=C1C=CC(=C2)CCNC([C@@H](C(C)C)NC2=NC(=NS2)N2C=NC=C2)=O | C19H22N6O3S
